US05885990
Preparation of 6-cyano-1-(2-carbamoylvinyl)-2-naphthol:
2.0 Liters of 25% aqueous ammonia was added to 25.2 g of 6-cyano-1-(2-ethoxycarbonylvinyl)-2-naphthol, followed by stirring at 40°-45° C. for 32 hours. After cooling, the reaction mixture was concentrated to 300 ml under reduced pressure, and the residue was stirred for 30 minutes under cooling with water. The precipitate was collected by filtration and washed with a small amount of water and acetone to obtain 9.55 g of the desired product.

reactant | ammonia | N | H3N
reactant | 6-cyano-1-(2-ethoxycarbonylvinyl)-2-naphthol | 25.2 g | C(#N)C=1C=C2C=CC(=C(C2=CC1)C=CC(=O)OCC)O | C16H13NO3
product | 6-cyano-1-(2-carbamoylvinyl)-2-naphthol | 9.55 g | C(#N)C=1C=C2C=CC(=C(C2=CC1)C=CC(N)=O)O | C14H10N2O2
